US08487108B2
To a solution of 2-amino-3-(tetrahydro-pyran-3-yl)-propan-1-ol (5.4 g, 0.034 mol) and Et3N (10.23 g, 0.101 mol) in CH2Cl2 (54 mL) at 0° C. was added Boc2O (8.829 g, 0.041 mol). After stirring at rt for 2 h, the mixture was concentrated to give tert-butyl (S)-1-hydroxy-3-(tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate 9.7 g), which was used for the next reaction without further purification. 1H NMR (CD3OD) δ 1.2-1.3 (m, 3H), 1.3-1.5 (m, 10H), 1.6-1.7 (m, 3H), 1.8-1.9 (m, 1H), 2.6-2.7 (s, 1H), 3.0-3.1 (m, 1H), 3.3-3.4 (m, 1H), 3.5-3.7 (m, 3H), 3.8-3.9 (m, 2H), 4.6-4.8 (d, 1H).

reactant | 2-amino-3-(tetrahydro-pyran-3-yl)-propan-1-ol | 0.034 mol, 5.4 g | NC(CO)CC1COCCC1 | C8H17NO2
reactant | Et3N | 0.101 mol, 10.23 g | CCN(CC)CC | C6H15N
reactant | Boc2O | 0.041 mol, 8.829 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 54 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-1-hydroxy-3-(tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 9.7 g | OC[C@H](CC1COCCC1)NC(OC(C)(C)C)=O | C13H25NO4
